US04380644
9.6 g of tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are dissolved in 200 ml of dimethylformamide, and 14.0 g of silver oxide are added thereto. 42.6 g of methyl iodide are added to the mixture at room temperature under stirring, and the mixture is further stirred for 2 days in the dark. The reaction mixture is filtered to remove insoluble materials, and the filtrate is condensed under reduced pressure. The residue obtained is dissolved in ethyl acetate. Then, the ethyl acetate solution is washed with water, dried and condensed under reduced pressure. The residue thus obtained is washed with n-hexane. 8.45 g of tert.-butyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are thereby obtained as colorless crystals. Yield: 84.3% M.p. 102°-103° C.

reactant | tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 9.6 g | C(C1=CC=CC=C1)OC(=O)N1C(NC[C@H]1C(=O)OC(C)(C)C)=O | C16H20N2O5
reactant | methyl iodide | 42.6 g | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver oxide | 14.0 g | [Ag]=O
product | tert.-butyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 8.45 g, Yield: 84.3% | CN1C(N([C@@H](C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C17H22N2O5
